US04785090
To a solution of 12.0 g of the (2-tritylaminothiazol-4-yl)methoxyphthalimide in 400 ml of dichloromethane was added 1.161 g of hydrazine hydrate with cooling, and the mixture was stirred at room temperature for 5 hours. The formed precipitates were removed by filtration, the dichloromethane layer was washed with 300 ml of 10% ammonia water three times and then with 300 ml of saturated saline twice, dried on anhydrous magnesium sulfate, and concentrated to dryness to obtain 8.74 g of (2-tritylaminothiazol-4-yl)methoxyamine.

reactant | (2-tritylaminothiazol-4-yl)methoxyphthalimide | 12.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)COC1=C2C(C(=O)NC2=O)=CC=C1 | C31H23N3O3S
reactant | hydrazine hydrate | 1.161 g | O.NN
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | (2-tritylaminothiazol-4-yl)methoxyamine | 8.74 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)CON | C23H21N3OS
